US03952104
To a solution of 4.93 g of 8-allyl-5-(3-methyl-n-butoxy)-4-oxo-4H-1-benzopyran-2-carboxylic acid sodium salt in 50 parts of water was added a saturated solution of 1.2 parts of calcium nitrate in water. The resulting calcium salt was filtered off, washed with water and dried to give 5 parts of 8-allyl-5-(3-methyl-n-butoxy)-4-oxo-4H-1-benzopyran-2-carboxylic acid calcium salt monohydrate as a white solid.

reactant | 8-allyl-5-(3-methyl-n-butoxy)-4-oxo-4H-1-benzopyran-2-carboxylic acid sodium salt | 4.93 g | [Na+].C(C=C)C1=CC=C(C=2C(C=C(OC21)C(=O)[O-])=O)OCCC(C)C
reactant | calcium nitrate | [N+](=O)([O-])[O-].[Ca+2].[N+](=O)([O-])[O-]
solvent | water | O | H2O
product | 8-allyl-5-(3-methyl-n-butoxy)-4-oxo-4H-1-benzopyran-2-carboxylic acid calcium salt monohydrate | O.[Ca+2].C(C=C)C1=CC=C(C=2C(C=C(OC21)C(=O)[O-])=O)OCCC(C)C.C(C=C)C2=CC=C(C=1C(C=C(OC12)C(=O)[O-])=O)OCCC(C)C | InChI=1S/2C18H20O5.Ca.H2O/c2*1-4-5-12-6-7-14(22-9-8-11(2)3)16-13(19)10-15(18(20)21)23-17(12)16;;/h2*4,6-7,10-11H,1,5,8-9H2,2-3H3,(H,20,21);;1H2/q;;+2;/p-2
